US06369078B1
trans-N-Boc-2-methyl-6-(ethyl propionyl)piperidine
A solution of trans-N-Boc-2-methyl-6-(ethenyl propionyl)piperidine (2.0 g, 6.70 mmol) in 3 mL of ethanol was shaken under 58 psi of H2 pressure over 0.65 g Pd/C catalyst overnight, and then the mixture was filtered through Celite and concentrated to give 1.8 g (90%) of the product which was homogeneous by TLC analysis. 1H NMR (250 MHz) δ4.16-4.08 (q, 2 H), 3.93-3.83 (m, 2 H), 2.36-2.28 (t, 2 H), 2.04-1.08 (m, 20 H); 13C NMR (62.7 MHz) 155.4 (s), 79.1 (s), 60.3 (s), 51.0 (s), 47.2 (s), 31.9 (s), 29.6 (s), 28.5 (s), 26.9 (s), 25.8 (s), 24.2 (s), 20.5 (s), 14.2 (s), ppm.

reactant | trans-N-Boc-2-methyl-6-(ethenyl propionyl)piperidine | 6.70 mmol, 2.0 g | C(=O)(OC(C)(C)C)N1[C@H](CCC[C@@H]1C(CCC=C)=O)C | C16H27NO3
solvent | ethanol | 3 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.65 g | [Pd] | Pd
product | trans-N-Boc-2-methyl-6-(ethyl propionyl)piperidine | 1.8 g, 90% | C(=O)(OC(C)(C)C)N1[C@H](CCC[C@@H]1C(CCCC)=O)C | C16H29NO3
